### PR TITLE
Reversable Valid transitions from reachable

### PR DESCRIPTION
**Pull request by traiansf**

### CODE REVIEW

**Comment by traiansf** [comment]
I've changed a bit the definitions and results to better follow what we've been writing in the paper.

File: theories/VLSM/Core/Composition.v [hunk 1]
```diff
@@ -1621,60 +1659,86 @@ Proof.
   apply f_equal with (f := fun s => s j) in Heqs.
   by rewrite !state_update_neq in Heqs.
 Qed.
-  
+
+Lemma CompositeValidTransition_reflects_rechability :
+  forall l s1 iom s2 oom,
+    CompositeValidTransition IM l s1 iom s2 oom ->
+    valid_state_prop RFree s2 ->
+    input_valid_transition RFree l (s1, iom) (s2, oom).
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1667]: I think the indentation style is inconsistent between this lemma and some of the previous ones.

File: theories/VLSM/Core/Composition.v [hunk 2]
```diff
@@ -1621,60 +1659,86 @@ Proof.
...
+      {
+        apply composite_valid_transition_projection_inv with (s1 j) (s' j).
+        - by split.
+        - apply state_update_eq.
+        - rewrite state_update_twice.
+          symmetry; apply state_update_id.
+          apply f_equal with (f := fun s => s j) in Heqs'.
+          by rewrite state_update_eq, state_update_neq in Heqs'.
+      }
+      assert (Hss1 : input_valid_transition RFree (existT i li) (state_update IM s j (s1 j), om) (s1, om')).
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1697]: This line is pretty long, maybe you should wrap it after after the 80th character.

File: theories/VLSM/Core/Composition.v [hunk 3]
```diff
@@ -1621,60 +1659,86 @@ Proof.
...
+          + by subst; rewrite state_update_eq, Heq_s', state_update_neq.
+          + by subst; rewrite state_update_neq, state_update_eq.
+          + by rewrite !state_update_neq in Heqs' |- *.
+      }
+      repeat split; cbn.
+      * by eapply input_valid_transition_destination.
+      * apply any_message_is_valid_in_preloaded.
+      * done.
+      * replace (vtransition _ _ _) with (s' j, oom).
+        by f_equal.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1714]:
```suggestion
      * by replace (vtransition _ _ _) with (s' j, oom); f_equal.
```

**Review by wkolowski — APPROVED** [review]
Looks good. I will not commit any suggestions.

File: theories/VLSM/Core/Composition.v [hunk 4]
```diff
@@ -1595,9 +1601,41 @@ Proof.
...
+
+Lemma CompositeValidTransitionsFromTo_trace : forall s s' tr,
+  finite_valid_trace_from_to RFree s s' tr ->
+  CompositeValidTransitionsFromTo s s' tr.
+Proof.
+  induction 1 using finite_valid_trace_from_to_rev_ind; [constructor |].
+  remember {| destination := sf |} as item;
+    replace sf with (destination item) by (subst; done);
+    econstructor; [done |]; subst.
+  by apply composite_valid_transition_reachable_iff, input_valid_transition_forget_input.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1620]:
```suggestion
  induction 1 using finite_valid_trace_from_to_rev_ind; [by constructor |].
  remember {| destination := sf |} as item.
  replace sf with (destination item) by (subst; done).
  econstructor; [done |]; subst.
  by apply composite_valid_transition_reachable_iff, input_valid_transition_forget_input.
```

File: theories/VLSM/Core/Composition.v [hunk 5]
```diff
@@ -1621,60 +1659,86 @@ Proof.
...
+        cbn in Hti; destruct Hti as [[Hvi Hti] Heqs'].
+      apply composite_valid_transition_projection in Hnext;
+        cbn in Hnext; destruct Hnext as [[Hvj Htj] Heq_s'].
+      rewrite Heq_s', state_update_neq in Heqs' by done.
+      specialize (IHHs2 (existT j lj) (state_update IM s j (s1 j)) iom oom).
+      spec IHHs2.
+      {
+        apply composite_valid_transition_projection_inv with (s1 j) (s' j).
+        - by split.
+        - apply state_update_eq.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1691]:
```suggestion
        - by apply state_update_eq.
```

File: theories/VLSM/Core/Composition.v [hunk 6]
```diff
@@ -1621,60 +1659,86 @@ Proof.
...
+          replace (vtransition _ _ _) with (s' i, om').
+          f_equal; extensionality k; apply f_equal with (f := fun s => s k) in Heqs'.
+          destruct (decide (i = k)); [|destruct (decide (j = k))].
+          + by subst; rewrite state_update_eq, Heq_s', state_update_neq.
+          + by subst; rewrite state_update_neq, state_update_eq.
+          + by rewrite !state_update_neq in Heqs' |- *.
+      }
+      repeat split; cbn.
+      * by eapply input_valid_transition_destination.
+      * apply any_message_is_valid_in_preloaded.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1711]:
```suggestion
      * by apply any_message_is_valid_in_preloaded.
```

File: theories/VLSM/Core/Composition.v [hunk 7]
```diff
@@ -1621,60 +1659,86 @@ Proof.
...
+  intros * Hnext Hs2; revert l s1 iom oom Hnext.
+  induction Hs2 using valid_state_prop_ind; intros * Hnext.
+  - apply composite_valid_transition_next in Hnext.
+    by contradict Hnext; apply not_CompositeValidTransitionNext_initial.
+  - destruct l as [i li], l0 as [j lj].
+    destruct (decide (i = j)).
+    + subst; apply input_valid_transition_forget_input in Ht as Hvt.
+      apply composite_valid_transition_reachable_iff in Hvt.
+      specialize (composite_quasi_unique_transition_to_state Hnext Hvt eq_refl) as Heq.
+      by destruct_and! Heq; simpl_existT; subst.
```
Comment (palmskog) [inline theories/VLSM/Core/Composition.v:1678]: It looks like `simpl_existT` introduces a dependency on the axiom `Eqdep.Eq_rect_eq.eq_rect_eq`. I guess this is fine, but it may be worth adding a comment to eventually figure out if it's really necessary.

**Review by palmskog — APPROVED** [review]
Looks good from proof engineering view, I have only a few minor comments and suggestions.
